US06002008
4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
To a mixture of 0.5 g (1.36 mmol) of 4-[(3-bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile and 0.48 ml (2.7 mmol) of Hunig's base in 50 ml of dry THF at 0° C., with stirring, was added a THF solution containing 0.50 g (2.7 mmol) of 4-bromo crotonyl chloride dropwise. The mixture was stirred for additional 0.5 hour after addition and then was added to a solution of 4.2 ml (40.8 mmol) diethyl amine in 50 ml of THF at 0° C. dropwise. The solution was stirred for an additional 0.5 hour. The mixture was poured into diluted sodium bicarbonate solution. The organic layer was separated and dried over sodium sulfate. Chromatography gave 0.2 g of white solid: mass spectrum (electrospray, m/e): M+H 508.1 and 510.8.

reactant | 4-[(3-bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile | 1.36 mmol, 0.5 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)N)OC)C#N | C17H13BrN4O
reactant | Hunig's base | 2.7 mmol, 0.48 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | 2.7 mmol, 0.50 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | diethyl amine | 40.8 mmol, 4.2 ml | C(C)NCC | C4H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-Diethylamino-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.2 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(CC)CC)=O)OC)C#N | C25H26BrN5O2
